US06235731B1
2) Synthesis of tert-butyl-(7,7-dimethyl-5,9-dihydro-6,8-dioxabenzocyclohepten-2-yl)methoxydiphenylsilane
To a solution of 3.227 g (15.495 mM) of (7,7-dimethyl-5,9-dihydro-6,8-dioxabenzocyclohepten-2-yl)-methanol and 1.27 g (18.6 mM) of imidazole in 20 ml of N,N-dimethylformamide was added 4.69 g (17.0 mM) of tert-butylchlorodiphenylsilane at room temperature and the mixture was stirred for 2 hours. This reaction mixture was poured in water and extracted with 3 portions of diethyl ether. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=30/1) to provide the title compound.

reactant | (7,7-dimethyl-5,9-dihydro-6,8-dioxabenzocyclohepten-2-yl)-methanol | 15.495 mM, 3.227 g | CC1(OCC2=C(CO1)C=C(C=C2)CO)C | C12H16O3
reactant | imidazole | 18.6 mM, 1.27 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 17.0 mM, 4.69 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl-(7,7-dimethyl-5,9-dihydro-6,8-dioxabenzocyclohepten-2-yl)methoxydiphenylsilane | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCC=1C=CC2=C(COC(OC2)(C)C)C1 | C28H34O3Si
